US07034016B2
2-Methyl-2-piperazin-1-ylpropan-1-ol
A mixture of 4-(2-hydroxy-1,1-dimethylethyl)piperazine-1-carboxylic acid benzyl ester (3.0 g, 10.3 mmol) in methanol (70 mL) and palladium on charcoal (0.5 g, 10%) was hydrogenated at room temperature at 40 p.s.i. overnight. The mixture was filtered through Celite and the filtrate evaporated under reduced pressure to give the title compound (1.55 g, 98%) as a white solid.

reactant | 4-(2-hydroxy-1,1-dimethylethyl)piperazine-1-carboxylic acid benzyl ester | 10.3 mmol, 3.0 g | C(C1=CC=CC=C1)OC(=O)N1CCN(CC1)C(CO)(C)C | C16H24N2O3
solvent | methanol | 70 mL | CO | CH4O
catalyst | palladium on charcoal | 0.5 g | [Pd] | Pd
product | 2-Methyl-2-piperazin-1-ylpropan-1-ol | 1.55 g, 98% | CC(CO)(C)N1CCNCC1 | C8H18N2O
